* C:\Users\ros\Desktop\GuitarPedalProject\finalProjSimulation.asc
Vplus VDD 0 9
Vminus VSS 0 -9
XU1 N004 N002 VDD VSS stage1 lm741/ns
R1 N002 N003 47k
R2 N004 VDD 10k
R3 0 N004 10k
C1 N003 input .22µ
V§input input 0 SINE(0 200m 1)
R§VR1 stage1 N002 500k
C4 VDD 0 100µ
R4 N001 stage1 4.7k
XU2 N004 N001 VDD VSS stage2 lm741/ns
R5 stage2 N001 47k
C2 stage2 N001 .22µ
R6 N005 stage2 10k
C3 stage3 N005 .47µ
D1 VDD stage3 1N914
D2 stage3 VDD 1N914
.model D D
.lib C:\Users\ros\Documents\LTspiceXVII\lib\cmp\standard.dio
.include lm741.MOD
* switch goes here >\n0 ohms is a short \n can be cut
.tran 5
* Put Commands Here
* Battery Supply
* First stage Amplification (x4)\nWorks 12/5
* FUZZ FACTOR SCHEMATIC
* Potentiometer
* Gain Control
.backanno
.end
