* C:\Users\ros\Desktop\GuitarPedalProject\v2 Pedal\finalProjSimulation.asc
Vplus VDD 0 9
R1 N003 N002 47k
R2 N004 VDD 10k
R3 0 N004 10k
C1 N002 input .22µ
V§input input 0 SINE(0 700m 1)
XU1 N003 N004 VDD 0 stage1 TL072
R§VR stage1 N003 500k
C4 VDD 0 100µ
C5 N004 0 10µ
R4 N001 stage1 4.7k
XU2 N001 N004 VDD 0 stage2 TL072
R5 stage2 N001 33k
C2 stage2 N001 22p
R6 N005 stage2 10k
C3 stage3 N005 .22µ
D1 0 stage3 D
D2 stage3 0 D
.model D D
.lib C:\Users\ros\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 5
* Put Commands Here
* Battery Supply
* FUZZ FACTOR SCHEMATIC
.lib C:\Users\ros\Desktop\GuitarPedalProject\v2 Pedal\sloj067\TL072.301
.backanno
.end
